US04035385
A solution of 2 ml of ethylene oxide in 10 ml of ethanol is treated with a solution of 0.6 g. of N-methyl-3-(8-chloro-dibenzo[ b,f] thiepin-10-yl)-2-propynylamine in 5 ml of ethanol and stirred at room temperature for about 4 hours. The solvent is evaporated and the residue partitioned between water and ether. The ethereal phase is washed with dilute aqueous ammonia solution, dried over sodium sulfate and evaporated, whereby there is obtained 2-{[3-(8-chloro-dibenzo[ b,f] -thiepin-10-yl)-2-propynyl] -methylamino} -ethanol which melts at 86°-88° C. after recrystallization from ether/n-pentane.

reactant | ethylene oxide | 2 ml | C1CO1 | C2H4O
reactant | N-methyl-3-(8-chloro-dibenzo[ b,f] thiepin-10-yl)-2-propynylamine | CNCC#CC1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C18H14ClNS
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-{[3-(8-chloro-dibenzo[ b,f] -thiepin-10-yl)-2-propynyl] -methylamino} -ethanol | ClC=1C=CC2=C(C(=CC3=C(S2)C=CC=C3)C#CCN(CCO)C)C1 | C20H18ClNOS
